US06011050
1-(3-Ethoxy-4-methoxyphenyl)-2-(N,N-dimethylaminosulfonyl)ethylamine was prepared by a procedure analogous to that of Example 1 from N,N-dimethyl methanesulfonamide (685 mg, 5.56 mmol) and n-butyllithium (2.5 mL, 2.5 M, 6.3 mmol) in tetrahydrofuran (90 mL), and 3-ethoxy-4-methoxybenzaldehyde (1.0 g, 5.5 mmol), lithium hexamethyldisilazide (4.7 mL, 1.3 M, 6.1 mmol) and boron trifluoride etherate (1.4 mL, 11 mmol) in tetrahydrofuran (5 mL). The product was obtained as a white solid (360 mg, 21% yield): mp, 82.0-83.0° C.; 1H NMR (CDCl3); δ 1.48 (t, J=7.5 Hz, 3H, CH3), 1.91 (br s, 2H, NH2), 2.88 (s, 6H, N(CH3)2), 3.05 (dd, J=3.0, 13.5 Hz, 1H CHH), 3.12 (dd, J=9.2, 13.5 Hz, 1H, CHH), 3.88 (s, 3H, CH3), 4.12 (q, J=7.0 Hz, 2H, CH2), 4.61 (dd, J=2.9, 9.2 Hz, 1H, NCH), 6.83-6.99 (m, 3H, Ar); 13C NMR (CDCl3) δ 14.81, 37.42, 51.02, 56.03, 64.41, 110.74, 111.55, 118.35, 135.97, 148.64, 148.96; Anal Calcd for C13H22NO4S: C, 51.64; H, 7.33; N,9.26. Found: C, 51,41; H,7.11; N, 9.10.

reactant | N,N-dimethyl methanesulfonamide | 5.56 mmol, 685 mg | CN(S(=O)(=O)C)C | C3H9NO2S
reactant | n-butyllithium | 6.3 mmol, 2.5 M, 2.5 mL | C(CCC)[Li]
reactant | 3-ethoxy-4-methoxybenzaldehyde | 5.5 mmol, 1.0 g | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | lithium hexamethyldisilazide | 6.1 mmol, 1.3 M, 4.7 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | boron trifluoride etherate | 11 mmol, 1.4 mL | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(3-Ethoxy-4-methoxyphenyl)-2-(N,N-dimethylaminosulfonyl)ethylamine | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)N(C)C)N | C13H22N2O4S
